US07417062B2
Step 2: N-Biphenyl-3-yl-4-difluoromethoxy-3-methoxy-(S)—N-pyrrolidin-2-ylmethyl-benzamide.
Experimental condition analogous to Example 1, from 1 g (1.94 mmol) of 2-(S)-{[biphenyl-3-yl-(3,4-dimethoxy-benzoyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester, 25 mL of trifluoroacetic acid and 100 mL of dichloromethane. Gave 0.75 gram of white semi solid: LC-MSD, m/z for: C26H26F2N2O3 [M+H]: 452.2. LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 7 minutes: 3.54.

reactant | 2-(S)-{[biphenyl-3-yl-(3,4-dimethoxy-benzoyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.94 mmol, 1 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(C(C1=CC(=C(C=C1)OC)OC)=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C31H36N2O5
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Biphenyl-3-yl-4-difluoromethoxy-3-methoxy-(S)—N-pyrrolidin-2-ylmethyl-benzamide | C1(=CC(=CC=C1)N(C(C1=CC(=C(C=C1)OC(F)F)OC)=O)C[C@H]1NCCC1)C1=CC=CC=C1 | C26H26F2N2O3
